US05856320
14.2 g of potassium carbonate was added to a solution of 14.5 g of methyl 2-hydroxyimino-acetoacetate in 50 ml of dimethylsulfoxide, and then 11.6 g of fluoro-bromomethane in 9 ml of N,N-dimethylformamide was added dropwise thereto. The mixture was stirred for 1 hour 30 minutes at room temperature, then poured into ice-water, and the resultant mixture was extracted twice with ethyl acetate. The organic layer was washed with saturated saline, dried over Na2SO4 and concentrated under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (120 g) with a mixture solvent of ethyl acetate and toluene (1/4 volume) as a eluent to give 4.7 g (27% yield) of methyl 2-fluoromethoxyiminoaceto-acetate (syn isomer).

reactant | potassium carbonate | 14.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-hydroxyimino-acetoacetate | 14.5 g | ON=C(C(=O)OC)C(=O)C | C5H7NO4
reactant | fluoro-bromomethane | 11.6 g | FCBr | CH2BrF
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | methyl 2-fluoromethoxyiminoaceto-acetate | 4.7 g, 27% yield | FCON=C(C(=O)OC)C(=O)C | C6H8FNO4
